Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
s/p slip and fall with Right ankle pain
 
Major Surgical or Invasive Procedure:
___:  ORIF with I&D Right ankle
 
History of Present Illness:
Mr. ___ is a ___ year old man who was running and slipped on 
ice.  He stated that her walked on his right foot to get medical 
attention.  His wife drove him to ___.  He was found to 
have an open right ankle fracture with dislocation.  He was then 
transported to the ___ for further care.
 
Past Medical History:
denies
 
Social History:
___
Family History:
n/a
 
Physical Exam:
Upon admission

Alert and oriented
Cardiac:  Regular rate rhythm
Chest:  Lungs clear bilaterlly
Abdomen:  Soft non-tender non-distended
Extremities:  RLE + sensation/movment, + pulses, small open area 
of skin
 
Pertinent Results:
___ 06:30AM BLOOD WBC-7.5 RBC-3.42* Hgb-10.7* Hct-30.1* 
MCV-88 MCH-31.3 MCHC-35.6* RDW-12.5 Plt ___
___ 05:40PM BLOOD WBC-10.7 RBC-4.28* Hgb-13.2* Hct-38.1* 
MCV-89 MCH-30.9 MCHC-34.8 RDW-13.0 Plt ___
___ 04:40PM BLOOD WBC-10.6 RBC-4.36* Hgb-13.2* Hct-38.2* 
MCV-88 MCH-30.4 MCHC-34.7 RDW-12.7 Plt ___
___ 04:40PM BLOOD Neuts-83.7* Lymphs-11.0* Monos-4.7 
Eos-0.5 Baso-0.1
___ 05:40PM BLOOD ___ PTT-25.1 ___
___ 04:40PM BLOOD ___ PTT-24.7 ___
___ 05:40PM BLOOD Glucose-131* UreaN-20 Creat-1.0 Na-139 
K-4.2 Cl-101 HCO3-27 AnGap-15
___ 04:40PM BLOOD Glucose-114* UreaN-20 Creat-1.0 Na-139 
K-4.4 Cl-102 HCO3-28 AnGap-13
___ 05:40PM BLOOD Calcium-9.3 Phos-3.7 Mg-2.1
 
Brief Hospital Course:
Mr. ___ presented to the ___ on ___ via transfer from 
___.  He was evaluated by the orthopaedic surgery 
department and found to have a right open ankle fracture with 
dislocation.  His fracture was reduced and splinted.  He was 
admitted, consented, and prepped for surgery.  He was taken to 
the operating room on ___ for an I&D with ORIF of his right 
ankle.  He tolerated the procedure well, was extubated, 
transferred to the recovery room, and then to the floor.  On the 
floor he was seen by physical therapy to improve his strength 
and mobility.  On ___ he was placed in an AirCast Boot.

The rest of his hospital stay was uneventful with his lab data 
and vital signs within normal limits and his pain controlled.  
He is being discharged today in stable condition.
 
Medications on Admission:
denies
 
Discharge Medications:
1. Enoxaparin 40 mg/0.4 mL Syringe Sig: One (1) 40mg syringe 
Subcutaneous Q 24H (Every 24 Hours) for 4 weeks.
Disp:*28 40mg syringe* Refills:*0*
2. Oxycodone 5 mg Tablet Sig: ___ Tablets PO Q4H (every 4 hours) 
as needed.
Disp:*90 Tablet(s)* Refills:*0*
3. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
s/p fall
Right ankle fracture/dislocation
 
Discharge Condition:
Stable
 
Discharge Instructions:
Continue to be non-weight bearing on your right ankle

Continue to take your lovenox injections for a total of 4 weeks 
after surgery

Take your boot off daily to inspect your skin

You may apply a dry sterile dressing daily or as needed for 
drainage or comfort

If you notice any increased redness, draiange, or swelling, or 
if you have a temperature greater than 101.5 please call the 
office or come to the emergency department.
Physical Therapy:
Activity:  Activity as tolerated
 Right lower extremity:  Non weight bearing
Treatment Frequency:
Staples/sutures out 14 days after surgery or at follow up 
appointment

Take off boot daily to inspect skin

Dry sterile dressing daily

 
Followup Instructions:
___